### PR TITLE
refactoring * with · in number and algebra related parts of the library

### PR DESCRIPTION
**Pull request by mchristianl**
reopening https://github.com/agda/cubical/pull/450 with just the refactoring

discussion at https://github.com/agda/cubical/issues/403#issuecomment-709002299 ff

### CODE REVIEW

File: Cubical/ZCohomology/KcompPrelims.agda [hunk 1]
```diff
@@ -57,11 +57,11 @@ private
...
   d-mapId r = substComposite HopfSuspS¹ (merid r) (sym (merid base)) base ∙
-              rotLemma r
+              ·Lemma r
     where
-    rotLemma : (r : S¹) → rot r base ≡ r
-    rotLemma base = refl
-    rotLemma (loop i) = refl
+    ·Lemma : (r : S¹) → r · base ≡ r
+    ·Lemma base = refl
+    ·Lemma (loop i) = refl
```
Comment (mchristianl) [inline Cubical/ZCohomology/KcompPrelims.agda:64]: what about renaming all the `rot` into `·` also in the Lemmas?

agda#453

File: Cubical/HITs/S1/Base.agda [hunk 2]
```diff
@@ -380,6 +380,8 @@ invS¹Path : S¹ ≡ S¹
 invS¹Path = ua invS¹Equiv
 
 -- rot, used in the Hopf fibration
+-- we will denote rotation by _·_
+-- it is called μ in the HoTT-book in "8.5.2 The Hopf construction"
```
Comment (mchristianl) [inline Cubical/HITs/S1/Base.agda:384]: the bespoken comment #453

**Review by mortberg — APPROVED** [review]
Looks good to me! Is it ready to be merged?
